US05028604
Colorless crystals of 1-[(S)-(-)-1,2,3,4-tetrahydronaphthalen-2-ylacetyl]-L-proline methyl ester were prepared in the same manner as in Reference Example 1, except that (S)-(-)-1,2,3,4-tetrahydronaphthalen-2-ylacetic acid and L-proline methyl ester were used instead of 2-indanyl acetic acid and L-thioproline ethyl ester, respectively yield: 72%).

reactant | (S)-(-)-1,2,3,4-tetrahydronaphthalen-2-ylacetic acid | C1[C@H](CCC2=CC=CC=C12)CC(=O)O | C12H14O2
reactant | L-proline methyl ester | COC([C@H]1NCCC1)=O | C6H11NO2
reactant | 2-indanyl acetic acid | C1(CCC2=CC=CC=C12)CC(=O)O | C11H12O2
reactant | L-thioproline ethyl ester | C(C)OC([C@H]1NCSC1)=O | C6H11NO2S
product | 1-[(S)-(-)-1,2,3,4-tetrahydronaphthalen-2-ylacetyl]-L-proline methyl ester | yield: 72% | COC([C@H]1N(CCC1)C(C[C@@H]1CC2=CC=CC=C2CC1)=O)=O | C18H23NO3
